US08058045B2
Dry DME (402 μL) was added to a mixture of tert-butyl 4-(2-amino-5-(4-methoxyphenyl)pyridin-4-ylamino)piperidine-1-carboxylate (16 mg, 0.040 mmol), 5-bromopyrazine-2-carbonitrile (7.39 mg, 0.040 mmol), xantphos (1.859 mg, 3.21 μmol), tris(dibenzylideneacetone)dipalladium(0) (1.471 mg, 1.606 μmol), and cesium carbonate (26.2 mg, 0.080 mmol) in a nitrogen purged, sealed microwave vial. Nitrogen gas was bubbled through the mixture for 5 min. The reaction mixture was heated for 1 hr at 100° C. by microwave irradiation. Upon cooling the mixture was diluted with MeOH and purified by ion exchange on Isolute SCX II acidic resin (5 g), eluting with MeOH. The eluent was concentrated and further purified by preparative thin layer chromatography, eluting with 7% MeOH, 1% NH3, 92% DCM, to give 5-(5-(4-methoxyphenyl)-4-(1-methylpiperidin-4-ylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile (4 mg, 7.97 μmol, 20% yield) as a light yellow powder.

reactant | tert-butyl 4-(2-amino-5-(4-methoxyphenyl)pyridin-4-ylamino)piperidine-1-carboxylate | 0.040 mmol, 16 mg | NC1=NC=C(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C22H30N4O3
reactant | 5-bromopyrazine-2-carbonitrile | 0.040 mmol, 7.39 mg | BrC=1N=CC(=NC1)C#N | C5H2BrN3
reactant | xantphos | 3.21 μmol, 1.859 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.080 mmol, 26.2 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.606 μmol, 1.471 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DME | 402 μL | COCCOC | C4H10O2
product | 5-(5-(4-methoxyphenyl)-4-(1-methylpiperidin-4-ylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile | 7.97 μmol, 4 mg, 20% yield | COC1=CC=C(C=C1)C=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)NC1CCN(CC1)C | C23H25N7O
